US07838675B2
N-{2-[(2,3-Difluorobenzyl)thio]-6-methoxypyrimidin-4-yl}-4-(4-methylpiperazin-1-yl)piperidine-1-sulfonamide
A solution of 1-methyl-piperazine (0.13 mL) in DCM (2 mL) was added to a solution of acetic acid (0.03 mL) and N-{2-[(2,3-difluorobenzyl)thio]-6-methoxypyrimidin-4-yl}-4-oxopiperidine-1-sulfonamide (the product of example 148, step iii) (0.10 g) in DCM (2 mL). The solution was stirred at room temperature for 1 h then sodium triacetoxyborohydride (0.24 g) was added in portions. The mixture was stirred at room temperature overnight then the DCM was evaporated and 3M aqueous sodium hydroxide (6 mL) added to the residue. The mixture was shaken vigorously then acidified to pH 8 with 2M aqueous hydrochloric acid and extracted with ethyl acetate. The combined organic extracts were washed with water, saturated aqueous sodium chloride, dried with sodium sulfate, filtered and evaporated. The residue was purified by reverse phase HPLC (gradient 25-95% acetonitrile in 0.1% aqueous ammonium acetate) to afford the title compound as a white powder. Yield: 22 mg

reactant | 1-methyl-piperazine | 0.13 mL | CN1CCNCC1 | C5H12N2
reactant | acetic acid | 0.03 mL | C(C)(=O)O | C2H4O2
reactant | N-{2-[(2,3-difluorobenzyl)thio]-6-methoxypyrimidin-4-yl}-4-oxopiperidine-1-sulfonamide | FC1=C(CSC2=NC(=CC(=N2)NS(=O)(=O)N2CCC(CC2)=O)OC)C=CC=C1F | C17H18F2N4O4S2
reactant | sodium triacetoxyborohydride | 0.24 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | N-{2-[(2,3-Difluorobenzyl)thio]-6-methoxypyrimidin-4-yl}-4-(4-methylpiperazin-1-yl)piperidine-1-sulfonamide | FC1=C(CSC2=NC(=CC(=N2)NS(=O)(=O)N2CCC(CC2)N2CCN(CC2)C)OC)C=CC=C1F | C22H30F2N6O3S2
